US05104883
A solution of (±)-2 -cyanomethylene-N-methyl-1-(quinolin-3 -yl)cyclohexane carbothioamide (1 g, 3.1 mmol) in dichloromethane (25 ml) was cooled to -20° C. and treated with a 1 M solution of diisobutylaluminium hydride in toluene (3.1 ml, 3.1 mmol). The mixture was allowed to warm to 10° C. over 90 mins. Dichloromethane (50 ml) was added to the reaction mixture followed by an aqueous solution of Rochelle salt (50 ml). The layers were separated and the organic layer was washed with an aqueous solution of Rochelle salt (50 ml). The organic extract was dried over magnesium sulphate and concentrated in vacuo to yield a yellow oil. Purification by flash chromatography over silica gel, eluting with a 1:1 (v/v) mixture of ethyl acetate/hexane yielded (±)-2 -formylmethylene-N-methyl-1-(quinolin-3 -yl)cyclohexane carbothioamide (300 mg, 0.93 mmol) as a pale yellow solid, m.p. 149°-151° C.;

reactant | (±)-2 -cyanomethylene-N-methyl-1-(quinolin-3 -yl)cyclohexane carbothioamide | 3.1 mmol, 1 g | C(#N)C=C1C(CCCC1)(C(NC)=S)C=1C=NC2=CC=CC=C2C1 | C19H19N3S
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 3.1 mmol, 3.1 ml | C1(=CC=CC=C1)C | C7H8
reactant | Rochelle salt | 50 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (±)-2 -formylmethylene-N-methyl-1-(quinolin-3 -yl)cyclohexane carbothioamide | 0.93 mmol, 300 mg | C(=O)C=C1C(CCCC1)(C(NC)=S)C=1C=NC2=CC=CC=C2C1 | C19H20N2OS
